US07060827B2
In like manner to the preparation of N4-(ethylenedioxyphenyl)-5-fluoro-N2-[3-(N-methylamino)carbonylmethyleneoxyphenyl]-2,4-pyrimidinediamine, the reaction of N4-(4-tert-butylphenyl)-5-fluoro-N2-(2-methoxycarbonylbenzofuran-5-yl)-2,4-pyrimidinediamine with methylamine hydrochloride gave N4-(4-tert-butylphenyl)-5-fluoro-N2-[2-(N-methylamino)carbonylbenzofuran-5-yl]-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 8.04 (d, 1H, J=2.4 Hz), 7.88 (d, 1H, 4.2 Hz), 7.58–7.30 (m, 7H), 2.94 (s, 3H), 1.33 (s, 9H); LCMS: ret. time: 22.86 min.; purity: 94%; MS (m/e): 434 (MH+).

reactant | N4-(4-tert-butylphenyl)-5-fluoro-N2-(2-methoxycarbonylbenzofuran-5-yl)-2,4-pyrimidinediamine | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC(=NC=C1F)NC=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C24H23FN4O3
reactant | methylamine hydrochloride | Cl.CN
product | N4-(4-tert-butylphenyl)-5-fluoro-N2-[2-(N-methylamino)carbonylbenzofuran-5-yl]-2,4-pyrimidinediamine | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC(=NC=C1F)NC=1C=CC2=C(C=C(O2)C(=O)NC)C1 | C24H24FN5O2
